US07547691B2
A stirred mixture of 2-(5-bromo-2-chloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide (400 mg, 0.979 mmol), 4-(2-aminoethyl)-4-methyl-piperidine-1-carboxylic acid tert-butyl ester (474 mg, 1.96 mmol) and diisopropylethylamine (253 mg, 1.96 mmol) in 1,4-dioxane (10 mL) is heated at 90° C. under nitrogen for 18 hours. At room temperature the mixture is concentrated and the crude product is chromatographed on silica gel, eluting with 3% 2 M NH3/MeOH in dichloromethane, to give 602 mg of 4-{2-[5-bromo-4-(4-cyclopropylcarbamoylbenzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-ethyl}-4-methylpiperidine-1-carboxylic acid tert-butyl ester. It is then subject to deprotection by dissolving the material (132 mg, 0.220 mmol) in MeOH (10 mL) and dichloromethane (5 mL) and bubbling anhydrous HCl gas for 5 minutes. The hot, yellow solution is allowed to sit at room temperature for 1.5 hours, then concentrated to give the title compound as a yellow solid (126 mg, 100% yield). ES+(m/z) 514 (79Br) and 516 (81Br) [M(free base)+H].

reactant | 2-(5-bromo-2-chloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | 0.979 mmol, 400 mg | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Br)Cl | C16H11BrClN3OS
reactant | 4-(2-aminoethyl)-4-methyl-piperidine-1-carboxylic acid tert-butyl ester | 1.96 mmol, 474 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)CCN | C13H26N2O2
reactant | diisopropylethylamine | 1.96 mmol, 253 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-{2-[5-bromo-4-(4-cyclopropylcarbamoylbenzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-ethyl}-4-methylpiperidine-1-carboxylic acid tert-butyl ester | 602 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)CCNC1=NC=C(C(=N1)C1=CC2=C(S1)C=CC=C2C(NC2CC2)=O)Br | C29H36BrN5O3S
